Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
R Facial weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year-old R-handed F w/ no known PMH who presents
with new facial weakness. Hx obtained from pt at bedside with
assistance of ___ interpreter.

Pt is a ___ yr F w/ no known PMH who presents for recent onset of
R facial weakness. Pt reports that she discovered upon awakening
this past ___ morning that her speech was slurred, with her R
face looking different than the L. She continued on without 
event
until ___ AM when she experienced numbness ("shaking') over
b/l cheeks, L>R, which has intermittently recurred since that
time. Out of concern, she contacted her PCP whom she saw the
following day in office. There, her SBP was in 180s and PCP
recommended to come to ED for stroke evaluation. 

She is unaware of any unusual events the day and night prior to
development of her sx. No associated dysphagia, although pt
endorses feeling like something is stuck in back of her throat.
No aphasia, diplopia, vertigo, or hearing loss/tinnitus. No
associated headache. Over the last day she has felt like she
can't write as well as usual, although denies any similar
difficulty in buttoning clothes, using kitchen utensils, or
cleaning herself. No recent f/c, n/v or infectious sx. 

Over the last 2 weeks, pt has experienced pain over her R
shoulder radiating down to her wrist over lateral arm/forearm.
She can't describe the pain but states that it is moderate to
severe and particularly worse at nighttime. In the daytime it
comes and goes. No associated neck pain, weakness (except for
impaired writing as noted above), or restriction in movement. No
recent heavy lifting or frequent reaching for objects. Reports
that she fell on R shoulder years ago without sequelae. Took
Advil with mild relief.  

On neuro ROS, pt endorses slight blurry vision over the last ___
days, later described as floaters.
 
Past Medical History:
None
 
Social History:
___
Family History:
HTN in father and mother
CVA in father 
 
Physical ___ Physical Exam:
Vitals: T: 98.3 P: 64 BP: 180/90 RR: 15 O2sat: 100% RA
General: Awake, cooperative, NAD. Elderly Asian female. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Mild restriction in cervical ROM w/ R head version (arm pain
elicited with head flexion and R head version). Tenderness to
palpation over R trapezius.
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language difficult to assess due to barrier. Fluency
and comprehension appear intact. Speech was mildly dysarthric.
Able to follow both midline and appendicular commands. There was
no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI with sacchadic
intrusions. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: R lower facial weakness at rest and less so with volitional
activity (smile, cheek puffing). 
VIII: HOH R>L. 
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Subtle orbiting around 
RUE.

No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___- 5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, or proprioception throughout. No extinction to
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   1
R  3  3    3    3   1
Pec jerk and adductors present. 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or TTF bilaterally. RAM intact b/l (slightly
slower on R) at phalanges and wrist. Mirror testing shows no
deficits. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem with mild difficulty. Romberg
absent.

Discharge Physical Exam:
24 HR Data (last updated ___ @ 1618)
    Temp: 98.5 (Tm 98.5), BP: 120/83 (120-170/75-83), HR: 76
(52-76), RR: 16 (___), O2 sat: 97% (96-100), O2 delivery: RA

General: 
HEENT: NC/AT
Pulmonary: breathing comfortably on room air
Cardiac: warm, well-perfused
Abdomen: soft, ND
Extremities: wwp, no C/C/E bilaterally
Skin: no rashes or lesions noted.  
Neurologic: 
-MS: oriented to self, ___, date. Can relay history clearly.
Naming intact to pen, glasses, button, fingernail. Repetition
intact. 
-CN: PERRL 4-3mm b/l. EOMI, no nystagmus. VFF to confrontation.
Reduced sensation to light touch and pinprick on R face. Subtle
NLFF on R. Tongue midline. Symmetric palate elevation. ___
trapezius b/l. 
-Motor
   [Delt] [Bic] [Tri] [ECR] [FEx] [IP] [Quad] [Ham] [TA] [Gas]
 L   5      5     5-    5     5    5-    5      5    5     5
 R   5      5     5     5     5    5     5      5    5     5
-Sensory: intact to light touch throughout. 
-Reflexes: Babinski - withdrawal b/l. 
-Coordination: Intact FNF. No dysmetria. 
-Gait: Good initiation. Narrow base. Good stride. Appears
slightly unsteady. Negative Rombergs. 

 
Pertinent Results:
___ 05:25AM BLOOD WBC-8.1 RBC-6.84* Hgb-12.1 Hct-41.2 
MCV-60* MCH-17.7* MCHC-29.4* RDW-17.9* RDWSD-31.9* Plt ___
___ 05:25AM BLOOD WBC-8.1 RBC-6.84* Hgb-12.1 Hct-41.2 
MCV-60* MCH-17.7* MCHC-29.4* RDW-17.9* RDWSD-31.9* Plt ___
___ 11:20AM BLOOD Neuts-74.4* Lymphs-15.6* Monos-4.5* 
Eos-3.9 Baso-1.3* Im ___ AbsNeut-5.68 AbsLymp-1.19* 
AbsMono-0.34 AbsEos-0.30 AbsBaso-0.10*
___ 05:25AM BLOOD Glucose-102* UreaN-25* Creat-1.0 Na-144 
K-4.4 Cl-103 HCO3-27 AnGap-14
___ 05:25AM BLOOD ALT-39 AST-31 LD(LDH)-174 CK(CPK)-111 
AlkPhos-124* TotBili-1.2
___ 05:25AM BLOOD Albumin-4.6 Calcium-10.0 Phos-5.2* Mg-2.3 
Cholest-185
___ 05:25AM BLOOD %HbA1c-6.1* eAG-128*
___ 05:25AM BLOOD Triglyc-114 HDL-52 CHOL/HD-3.6 
LDLcalc-110
___ 05:25AM BLOOD TSH-4.0
___ 11:20AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

CTA Head neck ___ IMPRESSION:
 
 
1. Hypodensity in the medial left frontal region, concerning for 
ischemic infarct disease MCA territory; this was shown to be an 
acute/subacute infarct in the left putamen by follow up MR.
2. 3 mm aneurysm of the left ICA at the cavernous segment.
3. Noncalcified atherosclerotic disease of the inferior branch 
of the right MCA.  Mild atherosclerotic disease in the posterior 
circulation without high-grade stenosis.
4. Aberrant origin of the left vertebral artery from the aortic 
arch.  The left vertebral artery also enters the transverse 
foramen at the C3 level instead.

MRI Head ___ FINDINGS: 
 
There is true restricted diffusion in the left putamen with 
corresponding T2 and FLAIR hyperintense signal abnormalities.  
There is no evidence of acute intracranial hemorrhage.  The 
ventricles and sulci are normal in size and configuration with 
no mass effect or midline shift.
 
Multiple scattered T2 and FLAIR hyperintense foci in the 
periventricular and subcortical white matter are nonspecific, 
but may reflect chronic small vessel ischemic changes.
 
There is mild mucosal thickening of the right maxillary and 
ethmoid sinuses. Small left mastoid air cell effusion.  The 
intraorbital contents are unremarkable.
 
IMPRESSION:
 
1. Acute/subacute infarction in the left putamen.
2. No evidence of acute intracranial hemorrhage.

TTE ___: IMPRESSION: Mild symmetric left ventricular 
hypertrophy with normal biventricular cavity sizes and 
regional/global systolic function. No valvular pathology or 
pathologic flow identified. No structural cardiac source of 
embolism (e.g.patent foramen ovale/atrial septal defect, 
intracardiac thrombus, or vegetation) seen.

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with no known PMH who is 
admitted to the Neurology stroke service with dysarthria, 
secondary to an acute ischemic stroke in the L putamen and 
corona radiata. Her stroke was most likely secondary to small 
vessel disease. She has moderate dysarthria and subtle R facial 
weakness. Her stroke risk factors include the following: 
1) pre-DM: A1c 6.1% 
2) Noncalcified atherosclerotic disease of the inferior branch 
of the right MCA. Mild atherosclerotic disease in the posterior 
circulation without high-grade stenosis. 
3) Hyperlipidemia: LDL 110
An MRI confirmed infarction seen on CT. 
An echocardiogram did not show a PFO on bubble study. 

Transitional Issues:
[] monitor BP as outpatient for hypertension. ___ need to start 
antihypertensives. Long-term BP goal <130/80
[] Check CK and LFTs since patient started on statin
[] Follow up with PCP 
[] Follow up with Neurology stroke clinic

___/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 110) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ischemic infarction in L corona radiata

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  
 You were hospitalized due to symptoms of difficulty speaking 
and facial weakness resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 High cholesterol - LDL 110. Goal LDL<70. 
 We are changing your medications as follows:  
 Starting Aspirin 81 mg daily
 Starting Atorvastatin 40 mg daily  
 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  

 Your ___ Neurology Team  
 
Followup Instructions:
___